US04482740
Calcium 2-[1-(ethoxyimino)propyl]-5-(4-methanesulfonamidophenyl)-3-oxo-1-cyclohexenolate:
Into 20 ml of an aqueous solution containing 2% of sodium hydroxide was dissolved 1.9 g of 2-[1-(ethoxyimino)propyl]-5-(4-methanesulfonamidophenyl)-3-hydroxy-2-cyclohexen-1-one and to the solution was added 3 cc of an aqueous solution containing 10% of calcium chloride at room temperature. The water was removed under reduced pressure and the residue was dissolved in ethanol and an insoluble sodium chloride was separated with a filtering step. The ethanol was distilled off under reduced pressure and 1.5 g of white powder having a melting point of 250° C. or more was obtained.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-[1-(ethoxyimino)propyl]-5-(4-methanesulfonamidophenyl)-3-hydroxy-2-cyclohexen-1-one | 1.9 g | C(C)ON=C(CC)C=1C(CC(CC1O)C1=CC=C(C=C1)NS(=O)(=O)C)=O | C18H24N2O5S
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
product | Calcium 2-[1-(ethoxyimino)propyl]-5-(4-methanesulfonamidophenyl)-3-oxo-1-cyclohexenolate | C(C)ON=C(CC)C1=C(CC(CC1=O)C1=CC=C(C=C1)NS(=O)(=O)C)[O-].[Ca+2].C(C)ON=C(CC)C1=C(CC(CC1=O)C1=CC=C(C=C1)NS(=O)(=O)C)[O-] | InChI=1S/2C18H24N2O5S.Ca/c2*1-4-15(19-25-5-2)18-16(21)10-13(11-17(18)22)12-6-8-14(9-7-12)20-26(3,23)24;/h2*6-9,13,20-21H,4-5,10-11H2,1-3H3;/q;;+2/p-2
